; PPT Converter SPICE simulation
.lib CoolGaN Transistors 100 V G3 - Spice.lib ;(*\footnote{SPICE model provided by Infineon. \\ \indent See \url{https://www.infineon.com/row/public/documents/24/50/infineon-coolgan-transistors-100v-g3-spice-simulationmodels-en.zip}}*)
.lib LM5114A_TRANS.lib ;(*\footnote{SPICE model provided by Texas Instruments. See: \url{https://www.ti.com/lit/zip/snvmad7}}*)
.lib SN74LVC1G34.cir ;(*\footnote{SPICE model provided by Texas Instruments. See: \url{https://www.ti.com/lit/zip/scem630}}*)
.lib ST_POWER_SCHOTTKY_V10.LIB ;(*\footnote{SPICE model provided by ST Microelectronics. See: \url{https://www.st.com/resource/en/spice_model/st_power_schottky_diodes_pspice_models_v6.zip}}*)
.lib rb168lam100tf_ltspice.lib ;(*\footnote{SPICE model provided by ROHM Semiconductor. \\ \indent See: \url{https://fscdn.rohm.com/en/products/library/ltspice/discrete/diode/schottky_barrier/rb168lam100tf_ltspice.zip}}*)
.lib c3216c0g2a104j160ac_p.mod ;(*\footnote{SPICE model provided by TDK Corporation. \\ \indent See: \url{https://product.tdk.com/system/files/dam/tvcl/capacitor/ceramic/mlcc/spice_p/commercial_midvoltage/c3216/c3216c0g2a104j160ac_p.mod}}*)
.lib C3216X7R2A105K160AA_b_LTspice.mod ;(*\footnote{SPICE model provided by TDK Corporation. \\ \indent See: \url{https://product.tdk.com/system/files/dam/tvcl/capacitor/ceramic/mlcc/ltspice/commercial_midvoltage/c3216/c3216x7r2a105k160aa_b_ltspice.zip}}*)
.lib C3216X6S2A106K160AC_b_LTspice.mod ;(*\footnote{SPICE model provided by TDK Corporation. \\ \indent See: \url{https://product.tdk.com/system/files/dam/tvcl/capacitor/ceramic/mlcc/ltspice/commercial_midvoltage/c3216/c3216x6s2a106k160ac_b_ltspice.zip}}*)
.lib PCR1J101MCL1GS_v100.lib ;(*\footnote{SPICE model provided by Nichicon. See: \url{https://www.nichicon.com/getmedia/93094b96-842a-4d22-b98e-fe87155efd57/PCR.zip}}*)
.lib 50SVPF68M.lib ;(*\footnote{SPICE model provided by Panasonic Industry Co., Ltd. See: \url{https://industrial.panasonic.com/content/data/CP/files/50SVPF68M.zip}}*)
.lib 1SMB59XXBT3G (SPICE MODEL).LIB ;(*\footnote{SPICE model provided by onsemi (Semiconductor Components Industries, LLC). \\ \indent See: \url{https://www.onsemi.com/download/models/lib/1smb59xxbt3g\%20(spice\%20model).lib}}*)

.OPTIONS NO_CARET_WARNING

;----------------Values------------------
;Design Choice
.param Vdc   = 25
.param Pout  = 30
.param fs    = 6.78Meg
;.param Qs    = 2
.param Coss  = 280p ;need to be measured
.param m     = 5    ; L1=m*L2
.param k     = 0.3  ;coil coupling coefficient
.param CD    = 50p  ;diode junction capacitor
.param Qcoil = 300  ;coil quality factor

;Component Value Calculation

;Due to the paper Design Considerations for Multimegahertz Resonant Inductive Power Transfer
;formula(27);the equivalent resistant of the rectifier equals the 2RL calculated at the primary side

.param comL = 2.2u
.param w   = 2*pi*fs
.param Pdc_phase = Pout/2                   ;single phi-2 power
;.param RL_phase = 0.74 * Vdc**2 / Pdc_phase ;single phi-2 load
.param RL_phase = 25
.param Rload_tot = 50 ;2*RL_phase
.param L2 = 0.94 * RL_phase / w
.param C2 = 1 / (4 * w**2 * L2)
.param C1_total = 0.61 / (w * RL_phase)
.param C1ext = C1_total -Coss
.param L1 = m * L2
;.param Ls = Qs * Rload_tot / w
.param Ls2 =  Rload_tot/(k*w)
;.param Ls2 = Ls/(1-k**2)
;.param Cs = 1 / (w * Qs * Rload_tot)
.param Cs2 = 1/((w**2)*Ls2)
.param coilesr= (w*Ls2)/Qcoil

;-------------transient---------------------
.param Duty     = 0.3  ;0.3-0.35
.param NCYCLES = 10000
.param PPS     = 1000
.param TPER    = 1/fs
.param TSTOP   = NCYCLES*TPER
.param TSTEP   = TPER/PPS

;.step param Coss 100p 300p 10p
;.step param comL 2u 3u 0.1u
.tran 0 {TSTOP} 0 {TSTEP} uic
;.options method=gear abstol=1n vntol=1m reltol=0.01
.OPTIONS itl1=100000
.OPTIONS itl2=100000
.OPTIONS itl4=100000
.options method=Trap abstol=1n vntol=1e-3 reltol=0.001 solver=alt
.OPTIONS measdgt=99
.OPTIONS numdgt=99
.OPTIONS gmin=1e-15
.OPTIONS list

;----------------topology-------------------
; DC input
V1 IN 0 {Vdc} RSER=0.005 ; Calculated output resistance of Agilent E3634A
XC IN 0 50SVPF68M
; Top Branch (Fa, MRa)
LFa IN N_Top_Mid {L1}
LMRa N_Top_Mid Mid_Node {L2}
; Bottom Branch (Fb, MRb)
LFb IN N_Bot_Mid {L1}
LMRb N_Bot_Mid Mid_Node {L2}
CMR Mid_Node 0 {2*C2}

; switches
Xtop N_Top_Mid Gtop 0 IGB110S101_L1
Xbottom N_Bot_Mid Gbottom 0 IGB110S101_L1
Cpa N_Top_Mid 0 {C1ext}
Cpb N_Bot_Mid 0 {C1ext}
DZ1 0  N_Top_Mid  DRB168LAM100TF
DZ2 0  N_Bot_Mid  DRB168LAM100TF

*Load Network
Cspri N_Top_Mid N_Cs1 {Cs2}
Lspri N_Cs1 N_Res {Ls2*(1-k**2)} Rser={coilesr}
;Lspri N_Cs1 N_Res {Ls2}
;Lspri N_Load N_Bot_Mid  {Ls2} Rser={coilesr}
;Rload N_Res N_Bot_Mid {Rload_tot}

;ideal transformer
Vsen  Sec_topa   Sec_top   0
E1   Sec_topa  Sec_bot N_Res   N_Bot_Mid  {1/k}
F1    N_Res   N_Bot_Mid    Vsen      {1/k}
Rpg N_Res   0     1e15
Rsg   Sec_topa  0     1e15

;secondary side
Lssec Sec_top   Sec_bot   {Ls2}
Rssec Sec_top   Sec_mid   {coilesr}
Cssec Sec_mid   Sec_r {Cs2}
;Rtestload Sec_r   Sec_bot {Rload_tot}


;full bridge
Lcomp Sec_r Sec_bot {comL}
D1 Sec_r  Vout  STPS360AF
D2 0   Sec_r    STPS360AF
D3 Sec_bot Vout STPS360AF
D4 0   Sec_bot  STPS360AF
XC_O_1 Vout 0 C3216C0G2A104J160AC_p
XC_O_2 Vout 0 C3216X7R2A105K160AA_b
XC_O_3 Vout 0 C3216X6S2A106K160AC_b
XC_O_4 Vout 0 PCR1J101MCL1GS IC=0
XZD 0 Vout 1SMB5946BT3
R_L Vout 0 {(Rload_tot*(pi**2))/8}

;Buffer
Vg1 IN_TOP 0 PULSE(0 5 0 10n 10n {Duty*TPER} {TPER})
Vg2 IN_BOT 0 PULSE(0 5 {TPER/2} 10n 10n {Duty*TPER} {TPER})
VCC_BUF   VCC   0   5
XBUF_TOP   IN_TOP2   IN_TOP   VCC   0   SN74LVC1G34
XBUF_BOT   IN_BOT2   IN_BOT   VCC   0   SN74LVC1G34

;Gate Driver
VDD_TOP  VDDT  0  5
VDD_BOT  VDDB  0  5
XDRV_TOP  IN_TOP   0   VDDT   Gtop   GtopN   0   LM5114A
XDRV_BOT  IN_BOT   0   VDDB   Gbottom   GbottomN   0   LM5114A
RNTOP GtopN Gtop 1.5
RNBOT GbottomN Gbottom 1.5

*----------------measurement-------------------
.op
.meas show_LF     PARAM L1
.meas show_LMR     PARAM L2
.meas show_Cpext  PARAM C1ext
.meas show_RL     PARAM RL_phase
.meas show_L1andL2     PARAM Ls2
.meas show_C1andC2     PARAM Cs2
.meas show_RLoad  PARAM {(Rload_tot*(pi**2))/8}

;power
;.meas Pavg INTEG I(Rload)*(V(N_Res)-V(N_Bot_Mid)) FROM {TSTOP-20*TPER} TO {TSTOP-10*TPER}
;.meas Pavg INTEG I(Rtestload)*(V(Sec_r)-V(Sec_bot)) FROM {TSTOP-20*TPER} TO {TSTOP}
.meas Pavg INTEG I(R_L)*V(Vout) FROM {TSTOP-50*TPER} TO {TSTOP}
.meas Pin  INTEG I(V1)*V(in) FROM {TSTOP-50*TPER} TO {TSTOP}
.meas eff PARAM (-Pavg/Pin)
.meas siwtchloss1 INTEG Ix(xbottom:drain) *V(n_bot_mid) FROM {TSTOP-50*TPER} TO {TSTOP}
.meas siwtchloss2 INTEG Ix(xtop:drain) *V(n_top_mid) FROM {TSTOP-50*TPER} TO {TSTOP}
.meas D1loss INTEG I(D1) *(V(Sec_r)-V(vout)) FROM {TSTOP-50*TPER} TO {TSTOP}
.meas D2loss INTEG I(D2) *(-V(Sec_r)) FROM {TSTOP-50*TPER} TO {TSTOP}
.meas D3loss INTEG I(D3) *(V(Sec_bot)-V(vout)) FROM {TSTOP-50*TPER} TO {TSTOP}
.meas D4loss INTEG I(D4) *(-V(Sec_bot)) FROM {TSTOP-50*TPER} TO {TSTOP}
;.meas LFApower INTEG I(LFa) *(V(IN)-V(N_Top_Mid)) FROM {TSTOP-50*TPER} TO {TSTOP}
;.meas LFBpower INTEG I(LFb) *(V(IN)-V(N_Bot_Mid)) FROM {TSTOP-50*TPER} TO {TSTOP}
;.meas LMRapower INTEG I(LMRa) *(-V(Mid_Node)+V(N_Top_Mid)) FROM {TSTOP-50*TPER} TO {TSTOP}
;.meas LMRbpower INTEG I(LMRb) *(-V(Mid_Node)+V(N_Bot_Mid)) FROM {TSTOP-50*TPER} TO {TSTOP}
;.meas CMRpower INTEG I(CMR) *V(Mid_Node) FROM {TSTOP-50*TPER} TO {TSTOP}
.meas Coil2power INTEG I(Rssec) *(-V(Sec_mid)+V(Sec_top)) FROM {TSTOP-50*TPER} TO {TSTOP}
;.meas loadnetworkpower INTEG I(Lspri) *(-V(N_Res)+V(N_Top_Mid)) FROM {TSTOP-50*TPER} TO {TSTOP}

.meas loss1 PARAM (-siwtchloss1/Pin)
.meas loss2 PARAM (-siwtchloss2/Pin)
.meas loss3 PARAM (-D1loss /Pin)
.meas loss4 PARAM (-D2loss /Pin)
.meas loss5 PARAM (-D3loss /Pin)
.meas loss6 PARAM (-D4loss /Pin)
;.meas loss7 PARAM (-LFApower/Pin)
;.meas loss8 PARAM (-LFBpower/Pin)
;.meas loss9 PARAM (-LMRapower/Pin)
;.meas loss10 PARAM (-LMRbpower/Pin)
;.meas loss11 PARAM (-CMRpower/Pin)
;.meas loss12 PARAM (-Coil2power/Pin)
;Vds
;.meas Vds1max_static MAX V(N_Bot_Mid) FROM {TSTOP-20*TPER} TO {TSTOP}
;.meas Vds2max_static MAX V(N_Top_Mid) FROM {TSTOP-20*TPER} TO {TSTOP}
;.meas Vds1max_trans MAX V(N_Bot_Mid)
;.meas Vds2max_trans MAX V(N_Top_Mid)

;CMR
;.meas VCMRmax_static MAX V(Mid_Node) FROM {TSTOP-20*TPER} TO {TSTOP}
;.meas VCMRmax_trans MAX V(Mid_Node)

;Cs1
;.meas VCs1max_static MAX V(N_Top_Mid)-V(N_Cs1) FROM {TSTOP-20*TPER} TO {TSTOP}
;.meas VCs1max_trans MAX V(N_Top_Mid)-V(N_Cs1)

;Cs2
;.meas VCs2max_static MAX V(Sec_mid )-V(Sec_r) FROM {TSTOP-20*TPER} TO {TSTOP}
;.meas VCs2max_trans MAX V(Sec_mid )-V(Sec_r)

.end

